US07544835B2
Ethyl 2-isopropoxy-3-{3-[({[4-(trifluoromethyl)anilino]carbonyl}-oxy)methyl]phenyl}propanoate
A suspension in tetrahydrofuran (2.0 ml) containing 100 mg of ethyl 3-[3-(hydroxymethyl)phenyl]-2-isopropoxypropanoate, 150 mg of α,α,α-trifluoro-p-tolylisocyanate and 35 μl of pyridine was stirred at room temperature for 14 hours. The solvent was removed, and the residue was treated with dichloromethane. After filtering off insoluble substances, the residue was purified by silica gel column chromatography, to give 149 mg of the title compound.

reactant | ethyl 3-[3-(hydroxymethyl)phenyl]-2-isopropoxypropanoate | 100 mg | OCC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C15H22O4
reactant | α,α,α-trifluoro-p-tolylisocyanate | 150 mg | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | pyridine | 35 μl | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | Ethyl 2-isopropoxy-3-{3-[({[4-(trifluoromethyl)anilino]carbonyl}-oxy)methyl]phenyl}propanoate | 149 mg | C(C)(C)OC(C(=O)OCC)CC1=CC(=CC=C1)COC(=O)NC1=CC=C(C=C1)C(F)(F)F | C23H26F3NO5
